US07807709B2
I. N-[(3R*,4R*)-1-Benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-ylmethyl]-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide
To a solution of [(3S*,4R*)-1-benzyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidin-3-ylmethyl]-isopropyl-carbamic acid tert-butyl ester (0.41 g, 0.66 mmol), is added a dioxane solution of HCl 4N (10 mL). The reaction mixture is stirred for 2 h at room temperature. The solvent is concentrated and water (20 mL), an aqueous solution of NaOH 4N (5 mL) and Et2O (25 mL) are added. The layers are separated and the aqueous one extracted twice with Et2O. The combined organic extracts are dried (MgSO4), and the solvent is removed in vacuo to give the title compound which is used without further purification in the next step. MS (LC-MS): 526.4 [M+H]+; tR (HPLC, C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/2.53 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.78 min.

reactant | [(3S*,4R*)-1-benzyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidin-3-ylmethyl]-isopropyl-carbamic acid tert-butyl ester | 0.66 mmol, 0.41 g | C(C)(C)(C)OC(N(C(C)C)C[C@@H]1CN(C[C@@H]1CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CC1=CC=CC=C1)=O | C36H55N3O6
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(3R*,4R*)-1-Benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-ylmethyl]-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](C1)CNC(C)C)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C31H47N3O4
